US08703807B2
Step 3: 2-{4-[(R)-2,2,2-Trifluoro-1-(4-methoxy-benzyloxy)-ethyl]-phenyl}-2-aza-spiro[4.5]decane-1,8-dione
The title compound was prepared in analogy to example 1, step 5 from 10-{4-[(R)-2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-ethyl]-phenyl}-1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecan-9-one (4.91 g) by treatment with 2 M HCl (58.3 ml) in THF (68.2 ml) as a white solid. (3.5 g).

reactant | 10-{4-[(R)-2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-ethyl]-phenyl}-1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecan-9-one | 4.91 g | FC([C@H](OCC1=CC=C(C=C1)OC)C1=CC=C(C=C1)N1C(C2(CCC3(OCCO3)CC2)CC1)=O)(F)F | C27H30F3NO5
reactant | HCl | 2 M, 58.3 ml | Cl | ClH
solvent | THF | 68.2 ml | C1CCOC1 | C4H8O
product | 2-{4-[(R)-2,2,2-Trifluoro-1-(4-methoxy-benzyloxy)-ethyl]-phenyl}-2-aza-spiro[4.5]decane-1,8-dione | FC([C@H](OCC1=CC=C(C=C1)OC)C1=CC=C(C=C1)N1C(C2(CC1)CCC(CC2)=O)=O)(F)F | C25H26F3NO4
